US04035363
To 10 ml. of dioxane are added 1.5 ml. of 37 % formalin and 2.42 g. of phenethylamine, followed by the addition of 3.2 g. of ortho-methoxyphenol dissolved in 3 ml. of dioxane. The mixture is heated at 100° C for 4 hours and distilled under reduced pressure to remove the solvent. The residue is purified by column chromatography on silica gel with a mixture of acetone and benzene (1:4) to obtain 2-methoxy-6-phenethylaminomethylphenol as an oil. Yield: 0.7 g.

reactant | formalin | C=O | CH2O
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | ortho-methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-methoxy-6-phenethylaminomethylphenol | COC1=C(C(=CC=C1)CNCCC1=CC=CC=C1)O | C16H19NO2
